US04544732
Preparation of Crude Allyldimethylsulfonium Tetrafluoroborate
Into a 3-neck 5-liter flask were weighed 1161.6 g (20 moles) of allyl alcohol, 950 g (15.3 moles) of dimethyl sulfide, and 1829 g (10 moles) of 48% aqueous tetrafluoroboric acid. The flask was attached to a large (1.5 liter) capacity Dean-Stark trap (initially filled with dimethyl sulfide) which was attached to a condenser. Reflux was started and an aqueous phase began to accumulate at the bottom of the Dean-Stark trap, displacing dimethyl sulfide back into the reaction mixture. Reflux was continued for six days. At the end of this period, the rate of accumulation of aqueous phase had become very small. The aqueous phase was drained into a tared bottle and weighed; the net weight of the aqueous phase was 1136.7 g. Excess dimethyl sulfide and allyl alcohol were allowed to distill at atmospheric pressure into the Dean-Stark trap until the temperature in the flask had reached 100° C. At this point, the flask was connected to a dry ice trap and vacuum was applied. The mixture in the flask was evaporated at 70° C. under magnetic stirring for one hour, with the pressure decreasing to a final value of 200 Pa. The yield of nonvolatile product was 1952 g. The nonvolatile product was a viscous liquid containing a small amount of crystals. It showed no signs of further crystallization on standing at room temperature.

reactant | allyl alcohol | 20 moles, 1161.6 g | C(C=C)O | C3H6O
reactant | dimethyl sulfide | 15.3 moles, 950 g | CSC | C2H6S
reactant | tetrafluoroboric acid | 10 moles, 1829 g | F[B-](F)(F)F.[H+]
product | Allyldimethylsulfonium Tetrafluoroborate | F[B-](F)(F)F.C(C=C)[S+](C)C | InChI=1S/C5H11S.BF4/c1-4-5-6(2)3;2-1(3,4)5/h4H,1,5H2,2-3H3;/q+1;-1
